US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (361 mg, 1.14 mmol), with cesium carbonate (0.74 g, 2.28 mmol), and 2-bromoacetophenone (1.134 g, 5.69 mmol, 5.0 eq) in acetonitrile (12 mL), provided 466 mg (94%) of L-isoleucine, N-[1-(2-phenyl-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil.

reactant | L-proline L-isoleucine benzylamide | 1.14 mmol, 361 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | cesium carbonate | 2.28 mmol, 0.74 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoacetophenone | 5.69 mmol, 1.134 g, 5.0 eq | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-phenyl-2-oxoethyl)-L-prolyl] benzylamide | 466 mg, 94% | C1(=CC=CC=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C26H33N3O3
